US05442064
1-tert. Butyloxycarbonyl-4-(4-cyanophenyl)-piperidine
A solution of 4.5 g of 4-(4-aminocarbonylphenyl)-1-tert.butyloxycarbonyl-piperidine, 6.8 g of triphenylphosphine, 2.4 g of carbon tetrachloride and 1.6 g of triethylamine in 50 ml of chloroform is stirred for 2 hours at 60° C. 1 ml of carbon tetrachloride is added dropwise and the mixture is stirred for a further 3 hours at 60° C. The solvent is removed under reduced pressure and the remaining oil is chromatographed over silica gel. Yield: 2.4 g (57% of theory), Rf value: 0.32 (silica gel; cyclohexane/ethyl acetate=4:1)

reactant | 4-(4-aminocarbonylphenyl)-1-tert.butyloxycarbonyl-piperidine | 4.5 g | NC(=O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
reactant | triphenylphosphine | 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 2.4 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-tert. Butyloxycarbonyl-4-(4-cyanophenyl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C#N | C17H22N2O2
